US06034090
3.25 g (0.135 mol) of Mg are mixed with a spatula tipfull of 12, and a solution of 30.4 g (0.135 mol) of 2-bromo-1-trifluoromethylbenzene in 125 ml of THF is added dropwise. The mixture is stirred for one hour at room temperature and 10.1 g (0.041 mol) of benzylpiperidone are added dropwise. The mixture is stirred for 1 hour at room temperature and a saturated ammonium chloride solution is added. After extraction with ethyl ether, the organic phase is dried and the solvent is evaporated off under reduced pressure. The product is purified by chromatography on a silica gel column using a cyclohexane/ethyl acetate mixture as the eluent to give 6.8 g of 1-benzyl-4-hydroxy-4-(2-tri-fluoromethylphenyl)piperidine, which is hydrogenated with 0.7 g of 10% Pd/C in 75 ml of 95% ethanol which has been brought to acid pH by the addition of hydrochloric acid, the mixture being heated at a temperature of 60° C. for 8 hours. The catalyst is filtered off to give 2.1 g of the title product M.p. 247-251° C.

reactant | 2-bromo-1-trifluoromethylbenzene | 0.135 mol, 30.4 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | benzylpiperidone | 0.041 mol, 10.1 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 125 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-hydroxy-4-(2-tri-fluoromethylphenyl)piperidine | 6.8 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=C(C=CC=C1)C(F)(F)F)O | C19H20F3NO
